US06362210B1
Trans-3-(naphth-2-yl)-acrylic acid-N-(2-carboxy-4,5-dimethoxy-phenyl)-amide
Prepared analogously to Example 2 from trans-3-(naphth-2-yl)-acrylic acid-N-(4,5-dimethoxy-2-methoxycarbonyl-phenyl)-amide and sodium hydroxide solution in methanol.

reactant | trans-3-(naphth-2-yl)-acrylic acid-N-(4,5-dimethoxy-2-methoxycarbonyl-phenyl)-amide | COC1=CC(=C(C=C1OC)NC(\C=C\C1=CC2=CC=CC=C2C=C1)=O)C(=O)OC | C23H21NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | Trans-3-(naphth-2-yl)-acrylic acid-N-(2-carboxy-4,5-dimethoxy-phenyl)-amide | C(=O)(O)C1=C(C=C(C(=C1)OC)OC)NC(\C=C\C1=CC2=CC=CC=C2C=C1)=O | C22H19NO5
